US07973050B2
Preparation of intermediate 5-(3,3-Diethoxypropylamino)-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylic acid
5-((3,3-Diethoxypropylamino)(thiophene-3-ylamino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione (1.62 mol) was suspended in a solution of hexamethyldisilazane (1.08 L, 5.18 mol) in xylenes (2.4 L) and was heated at reflux for 24 h. After cooling to room temperature, the mixture was concentrated under reduced pressure to afford a dark oil. The dark oil was carefully treated with methanol (0.5 L) to form brown solids, followed by addition of ethyl ether (1.6 L). The resultant solids were filtered and washed with MeOH/Ether (1:3) (0.8 L). The solids were dried under vacuum to afford 432.2 g (78%) of the desired intermediate 5-(3,3-Diethoxypropylamino)-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylic acid as a beige solid. 1H NMR (400 MHz, DMSO d6) δ 1.09 (m, 6H), 1.91 (m, 2H), 3.40 (m, 2H), 3.58 (m, 2H), 4.06 (s, 1H), 4.60 (t, 1H, J=5.2 Hz), 7.28 (d, 1H, J=4.8 Hz), 8.05 (d, 1H, J=4.8 Hz), 9.94 (m, 1H), 11.8 (s, 1H).

reactant | 5-((3,3-Diethoxypropylamino)(thiophene-3-ylamino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione | 1.62 mol | C(C)OC(CCNC(=C1C(OC(OC1=O)(C)C)=O)NC1=CSC=C1)OCC | C18H26N2O6S
reactant | hexamethyldisilazane | 5.18 mol, 1.08 L | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | methanol | 0.5 L | CO | CH4O
solvent | ethyl ether | 1.6 L | C(C)OCC | C4H10O
product | 5-(3,3-Diethoxypropylamino)-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylic acid | 432.2 g, 78% | C(C)OC(CCNC1=C(C(C2=C(N1)C=CS2)=O)C(=O)O)OCC | C15H20N2O5S
